US07259177B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, 1-ethyl-1,2-propanedione-2-oxime and m-anisaldehyde gave 4-iodomethyl-5-ethyl-2-(3-methoxyphenyl)oxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | 1-ethyl-1,2-propanedione-2-oxime | C(C)C(C(C)=NO)=O | C5H9NO2
reactant | m-anisaldehyde | C(C1=CC(=CC=C1)OC)=O | C8H8O2
product | 4-iodomethyl-5-ethyl-2-(3-methoxyphenyl)oxazole | ICC=1N=C(OC1CC)C1=CC(=CC=C1)OC | C13H14INO2
